US06395733B1
(3-Chloro-phenyl)-(7-methyl-pyrido[4,3-d]pyrimidin-4-yl)-amine Hydrochloride
Utilizing a procedure analogous to that described in Example 16, this product was prepared in 34% yield from 4-hydroxy-7-methyl-pyrido[4,3-d]pyrimidine (1.0 eq) and m-chloroaniline (40.0 eq) in pyridine. The HCl salt was generated from the purified free base according to the procedure given in Example 1. (M.P. 255-256° C.; GC-MS: 270 (MH+); anal. RP18-HPLC RT: 4.05 min.)

reactant | 4-hydroxy-7-methyl-pyrido[4,3-d]pyrimidine | 1.0 eq | OC=1C2=C(N=CN1)C=C(N=C2)C | C8H7N3O
reactant | m-chloroaniline | 40.0 eq | ClC=1C=C(N)C=CC1 | C6H6ClN
reactant | HCl | Cl | ClH
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | (3-Chloro-phenyl)-(7-methyl-pyrido[4,3-d]pyrimidin-4-yl)-amine Hydrochloride | 34% yield | Cl.ClC=1C=C(C=CC1)NC=1C2=C(N=CN1)C=C(N=C2)C | InChI=1S/C14H11ClN4.ClH/c1-9-5-13-12(7-16-9)14(18-8-17-13)19-11-4-2-3-10(15)6-11;/h2-8H,1H3,(H,17,18,19);1H
